Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left foot pain
 
Major Surgical or Invasive Procedure:
Incision and Drainage of left foot abscess - ___

 
History of Present Illness:
This patient is a ___ year-old male with a hisotry of IVDU 
(heroin) and Hepatitis C who presents with a right foot abscess. 
The patient reports that he injected a vein ___ his right foot 
about five days ago. Since that point ___ time, he has noticed 
erythema and swelling of the dorsal aspect of his foot. ___ the 
last 24 hours, he has developed pain tracking up into the 
posterior aspect of his right calf up to his knee. He describes 
the pain as intermittently sharp with cramping. The patient 
denies any fevers or chills; notes black stool yesterday. He 
reports that his last use of heroin was yesterday morning; he 
uses new needles.
  
Initial VS ___ the ED: 97.8 82 105/67 16 99% RA. CT ___ revealed 
soft tissue stranding, no foreign body, no necrotizing fascitis, 
and a 10 x 9mm focal fluid collection along the mid foot. He 
underwent surgical incision and drainage. He was given 
ceftriaxone and vancomycin, and admitted to the floor for 
continued IV antibiotics.

VS prior to transfer:  98.6 80 14 sat 98%
  
On the floor, the patient reports pain of the right foot but no 
fever or general malaise.
 
Past Medical History:
IVDU, heroin
Hepatitis C
Hypertension
Bipolar
PTSD
Right proximal ___ neuropathic pain
 
Social History:
___
Family History:
Not elicited.
 
Physical Exam:
On admission - 
Vitals: T: 98.1 BP: ___ P: 64 R: 18 O2: 100%RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, upper dentures present, no lower 
dentition  
Neck: supple, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: well-healed RUQ scar, soft, non-tender, non-distended, 
bowel sounds present, no rebound tenderness or guarding, no 
organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis; left 
foot with erythema on dorsal aspect, TTP from ball to heel and 
along dorsal aspect proximally to inferior patellar tendon.  
Scatter erythematous papules along ankle to anterior midshin.
Neuro: Left foot and distal lower extremity has decreased 
sensation to light touch.

On discharge - 
Vitals: T: 97.7 (98.1) BP: 120/81 (100-137/70-90) P: 97 (58-97) 
R: 18 O2: 97%RA
General: Alert, oriented, shivering, no acute distress  
HEENT: Sclera anicteric, PERRLA (6->5), MMM, upper dentures 
present, no lower dentition
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: well-healed RUQ scar, soft, non-tender, non-distended, 
bowel sounds present, no rebound tenderness or guarding, no 
organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis; left 
foot with minimal erythema I&D site, minimal TTP on plantar 
surface along foot arch, TTP along dorsal aspect and to the 
ankle
Derm: No piloerection
 
Pertinent Results:
___ 03:00PM BLOOD WBC-8.2 RBC-4.23* Hgb-12.0* Hct-35.8* 
MCV-85 MCH-28.3 MCHC-33.5 RDW-13.8 Plt ___
___ 05:30AM BLOOD WBC-4.8 RBC-4.20* Hgb-11.8* Hct-35.7* 
MCV-85 MCH-28.1 MCHC-33.1 RDW-13.7 Plt ___
___ 03:00PM BLOOD Neuts-68.4 ___ Monos-3.5 Eos-1.4 
Baso-0.6
___ 03:22PM BLOOD ___ PTT-27.9 ___
___ 05:30AM BLOOD Glucose-109* UreaN-6 Creat-0.7 Na-138 
K-4.0 Cl-104 HCO3-30 AnGap-8
___ 03:00PM BLOOD CK(CPK)-383*
___ 05:30AM BLOOD ALT-17 AST-20 AlkPhos-87 TotBili-0.5
___ 03:00PM BLOOD CRP-43.6*
___ 03:45PM BLOOD HIV Ab-NEGATIVE
___ 03:15PM BLOOD Lactate-1.1
 GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND SINGLY. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 
      CITROBACTER FREUNDII COMPLEX.    SPARSE GROWTH. 
         This organism may develop resistance to third 
generation
         cephalosporins during prolonged therapy. Therefore, 
isolates that
         are initially susceptible may become resistant within 
three to
         four days after initiation of therapy.  For serious 
infections,
         repeat culture and sensitivity testing may therefore be 
warranted
         if third generation cephalosporins were used. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |          CITROBACTER FREUNDII 
COMPLEX
                             |          |   
CEFEPIME--------------              <=1 S
CEFTAZIDIME-----------              <=1 S
CEFTRIAXONE-----------              <=1 S
CIPROFLOXACIN---------           <=0.25 S
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S      <=1 S
LEVOFLOXACIN----------  0.25 S
MEROPENEM-------------           <=0.25 S
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
TOBRAMYCIN------------              <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S      <=1 S

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

___ Blood cultures x 2 PENDING
 
Brief Hospital Course:
Active Issues - 
# R Foot Abscess: Afebrile and no leukocytosis on admission.  
Likely secondary to injection drug use.  CT ___ negative for 
necrotizing fascitis, foreign body and bone involvement.  ___ the 
ED, he underwent I&D and he received vancomycin and ceftriaxone 
IV.  Preliminary wound culture then showed S aureus and 
Citrobacter, so vancomycin was discontinued and the patient was 
started on bactrim.  Pain was controlled with oxycodone 5 mg PO 
PRN.  The right foot abscess improved daily and on the day of 
discharge there was minimal surrounding erythema and no fluid 
collection.  He was discharged on bactrim DS 2 tablets x 5 days 
for a total antibiotic course of 10 days, given wound care 
supplies and instructed on self-wound care.
  
# IVDU: Uses heroin, recently clean for 6 months but started 
using this past week.  He was not enrolled ___ a ___ clinic 
at this time.  Throughout this admission, the patient 
experienced opioid withdrawal so was given methadone 5 mg TID.  
Social work was involved and discovered an ___ 
clinic enrollment appointment ___.  Attempts to expedite 
this enrollment were not successful.  Methadone was discontinued 
on discharge.

Inactive Issues -
# Anemia: Hct 35.8, MCV 85.  Baseline Hct unknown.  Hct remained 
stable and there were no signs of bleeding.

# Hepatitis C:  Viral burden unknown, currently followed by GI 
at ___ twice a year.  He was asymptomatic and LFTs WNL.  
Further evaluation and treatment was deferred for outpatient 
team.

# HTN: Stable. Continued home clonidine.

Transitional Care Issues -
# Right foot abscess wound care: requires PCP follow up
# IVDU: currently not enrolled ___ a ___ clinic, but has an 
upcoming appointment for enrollment ___ ___.
# HCV: requires outpatient hepatology follow-up
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. CloniDINE 0.2 mg PO TID 
2. BuPROPion 150 mg PO BID 
3. Aripiprazole 4 mg PO DAILY QAM 
4. Mirtazapine 15 mg PO HS insomnia 
5. Gabapentin 600 mg PO TID 

 
Discharge Medications:
1. Aripiprazole 4 mg PO DAILY QAM 
2. BuPROPion 150 mg PO BID 
3. CloniDINE 0.2 mg PO TID 
4. Gabapentin 600 mg PO TID 
5. Clonazepam 1 mg PO TID 
6. Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX *Bactrim DS 800 mg-160 mg twice a day Disp #*16 Tablet 
Refills:*0
7. Mirtazapine 15 mg PO HS insomnia 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abscess, Left foot
Opiate Dependence

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you ___ the hospital. You were 
admitted with an infection of the soft tissue ___ your foot. The 
infection was incised and drained. You were also started on 
intravenous antibiotics, and then transitioned to oral 
antibiotics. You will continue these antibiotics for an 
additional five days at home. Please continue to clean and dress 
the wound as you were instructed by the nursing staff.

 
Followup Instructions:
___